Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old right-handed man with no known
chronic medical conditions who was brought here by ambulance
after having a convulsion with concern for seizure at work.

Mr. ___ slept well last night and got ___ hours total of
sleep.  He woke up this morning feeling well and has no concern
for infection.  Mr. ___ walked for 35 minutes from home to 
the
commuter-rail as usual.  Mr. ___ works at an ___
as the ___.  Mr. ___ at about 9:30 to 10:00 was 
standing
when his spell started.  Mr. ___ has no recollection of the
spell and the next thing he remembers is awakening in the ___
emergency room.

I called ___, patient's co-worker, to get the rest of the history
as he witnessed the event.  Mr. ___ was standing and leaning
on a high counter with his elbows/arms resting on the counter. 
Mr. ___ was noted to have a flat look on his face and was not
responding to voices and commands.  Mr. ___ was not moving at
all and pertinently there was no gaze-deviation, lip smacking,
tongue movement, or hand-picking or writhing.  Mr. ___ was
moved from a standing to a seated position and remained
unresponsive for five to ten minutes. EMS was called and while
they were preparing to bring Mr. ___ to the hospital he had a
generalized convulsion lasting two to three minutes.  Mr. ___
did not bite his tongue and did not have urinary incontinence. 

Mr. ___ currently has a mild headache, but otherwise he feels
normal.  He denies fatigue and muscle soreness/weakness. 

Mr. ___ was found to have an empty flask in his backpack on
arrival to the emergency department.  Mr. ___, however, 
states
that he was given the flask as a gift and that he has not
actually used it. Mr. ___ reports that he is in a band and
plays guitar.  He only drinks once per week during band 
practice.
He drinks a 22 or 40 oz beer and occasionally drinks between ___
shots of whisky.  Mr. ___ last drank alcohol on ___ and
before then drank on ___.   

Mr. ___ was seen in the ___ emergency department in ___
after presenting after having a convulsion while at work.  Mr.
___ was back to baseline and was not post ictal when examined
by the neurology service.  Mr. ___ at this time had a total 
of
two lifetime convulsions with the first being thought to be in
the context of alcohol withdrawal.  Mr. ___ neurologic
examination was normal.  Serum ethanol level was 0.  Mr. ___
was told to start taking levetiracetam 1500 mg BID and he was
supposed to be seen in the first time seizure clinic for further
evaluation and management.  Mr. ___ tells me that he never
filled the prescription and did not go to the scheduled
appointment.  Mr. ___ admits that this is his own fault and
that he just is not used to taking pills or needing to
physicians. 

 
Past Medical History:
Chronic perianal abscess for ___ years, flairs up every once in
a while, but has not been a problem in years.  He, in the past,
has had to have the abscess drained.  The reason he has the
abscess is unknown. 
Patient was shot in the nose/face with a pellet gun many years
ago.  He was examined and it is thought that the pellet was not
in his nose or face, but he was told ultimately it is uncertain
if the pellet is there. Uncertain if pellet was made of metal.
 
Social History:
___
Family History:
Mr. ___ sister has a seizure disorder since high school. 
Mr. ___ sister blacks out and has odd behavior where she
pretends she is an ___ in a television show.  Mr. ___
parents do not have seizures. 
 
Physical Exam:
Admission Exam:
General: Comfortable and in no distress 
Tongue: Bites on lateral aspects (R>L)
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination:
Mental status:  
He is awake, alert, and cooperative with the exam.  He is
attentive, able to say months of the year backwards.  Fund of
knowledge is intact.  He is oriented to place and date.  
Language
is fluent.  Memory for recent and remote history is intact.  
Cranial nerves:  
Pupils are equal and reactive.  Extraocular movements are full. 
Facial sensation and movement are intact and symmetric.  Hearing
is intact to finger rub bilaterally.  Palate elevates
symmetrically.  SCM and trapezius are full strength bilaterally. 

Tongue is midline.  
Motor:  
Tone is normal.  He has no pronator drift or orbiting.  Strength
is full.  
Sensation:  
Pinprick is intact in the hands and feet.  Position sense is
intact in the toes bilaterally.  Romberg is negative.  
Coordination:  
Finger-nose-finger and finger-to-nose are intact without
dysmetria bilaterally.  
Reflexes:  
2 and symmetric.  Toes are downgoing bilaterally.  
Gait:  
Narrow based with normal step height, stride length, arm swing,
and turns.  He is able to walk in tandem.

Discharge Physical Exam:
MS: awake, alert, oriented, fully conversational and 
appropriate. Normal speech and language. Good insight and 
memory. 

CN: PERRL 3-->2 bilaterally, ___ beats of end gaze nystagmus 
that extinguishes, symmetric facial activation, intact 
sensation, tongue midline with symmetric palate activation

Motor: full strength throughout, no asterixis or tremor noted

Coordination: FTN intact with no ataxia bilaterally
 
Pertinent Results:
___ 07:42AM BLOOD WBC-7.3 RBC-4.28* Hgb-14.0 Hct-42.0 
MCV-98 MCH-32.7* MCHC-33.3 RDW-13.7 RDWSD-49.2* Plt ___
___ 11:00AM BLOOD Plt ___
___ 11:00AM BLOOD ___ PTT-26.8 ___
___ 07:42AM BLOOD Glucose-77 UreaN-12 Creat-0.9 Na-139 
K-3.9 Cl-102 HCO3-24 AnGap-13
___ 07:42AM BLOOD ALT-67* AST-67*
___ 07:42AM BLOOD Calcium-8.7 Phos-3.0 Mg-2.2
___ 07:42AM BLOOD %HbA1c-5.1 eAG-100
___ 11:00AM BLOOD TSH-1.3

MRI brain w/wo contrast seizure protocol ___
  
FINDINGS:  
  
Some of the images have been degraded by movement artifact. 
  
There are few nonspecific bilateral supratentorial T2/FLAIR 
white matter 
hyperintensities. This may represent the sequelae of chronic 
microangiopathy. 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or infarction. There is no evidence of heterotopic gray matter, 
focal 
cortical dysplasia or mesial temporal sclerosis. The ventricles 
and sulci are 
normal in caliber and configuration. There is no abnormal 
enhancement after 
contrast administration. 
  
IMPRESSION: 
  
  
1. There are few nonspecific bilateral supratentorial T2/FLAIR 
white matter 
hyperintensities. This may represent the sequelae of chronic 
microangiopathy. 
2. No acute intracranial abnormality or mass is identified. 

Extended Routine EEG: normal, no epileptiform discharges. 
 
Brief Hospital Course:
___ is a ___ year old right-handed man with no known 
chronic medical conditions who was brought in by ambulance after 
having a generalized tonic clonic seizure at work. Neurological 
exam on admission was normal, general exam notable for tongue 
bite. This is patient's third lifetime generalized seizure, and 
though originally attributed to alcohol withdrawal, patient says 
that this is unlikely as there was minimal preceding ETOH use. 
Notably, he endorses frequent abnormal metallic sensation as 
well as out of body experiences, about once per week lasting ~30 
seconds. He did present to ___ with a seizure on ___, and at 
that time was prescribed Keppra 1500mg BID. He took this 
medication for one month and tolerated it well; during that time 
period he did not have any abnormal taste or out of body 
experience or generalized seizures. He was given 2g of Keppra in 
the ED and then started on Keppra 1g BID and further uptitrated 
to 1.5g BID. He was continued on thiamine 200mg daily. He was 
noted to have a mild leukocytosis and transaminitis, likely 
related to seizure. 

Extended routine EEG was normal. MRI brain with and without 
contrast which did not show any evidence of acute ischemia or 
inflammation or tumor. There are a few small areas of white 
matter disease lateral to the ventricles, which are non-specific 
and unlikely to be related to the presentation. 

Seizure semiology is suggestive of with temporal lobe seizures, 
some with secondary generalization. He will need to continue AED 
therapy, and will need to follow up in neurology clinic. We 
prescribed multivitamins and thiamine, given history of alcohol 
use. Mr ___ was counseled extensively regarding seizure 
precautions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LevETIRAcetam 1500 mg PO BID  
2.  Multivitamins 1 TAB PO DAILY  
3.  Thiamine 200 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
seizure
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 
You were hospitalized at ___ because you had a generalized 
tonic clonic seizure with a focal onset. We suspect that you 
have been having other focal seizures as you reported 
experiencing intermittent metallic taste in your mouth. We 
started you on Keppra, the medication you tolerated well 
previously. We performed an EEG, which was normal, as well as an 
MRI which was normal. 
We believe you have a condition called epilepsy, a condition in 
which abnormal electrical activity in the brain causing a 
variety of abnormal symptoms and loss of consciousness. This 
condition is treated with medications that help to prevent 
seizures, which you will need to be on long term. 
We discussed safety measures to take at home, including not 
swimming unsupervised or taking a bath alone, or climbing a 
ladder. You also cannot drive for 6 months of seizure freedom 
per ___ law. You also should avoid alcohol, as alcohol 
withdrawal can also cause seizures.  
It is very important that you follow up in neurology clinic even 
if your symptoms are well controlled. We will call you with an 
appointment. 

It was a pleasure taking care of you and we wish you the best!

Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___